US07935674B2
4-Chloro-3-(5-ethylthiophen-2-yl-methyl)-1-(β-D-gluco-pyranosyl)indole
4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 1-(3) and 5-ethylthiophen-2-carbonyl chloride were treated in a manner similar to Example 2-(4), (5), (6) and (7) to give the titled compound as a pink powder. APCI-Mass m/Z 455/457 (M+NH4). 1H-NMR (DMSO-d6) δ 1.17 (t, J=7.4 Hz, 3H), 2.71 (q, J=7.4 Hz, 2H), 3.15-3.43 (m, 4H), 3.67 (m, 2H), 4.36 (s, 2H), 4.54 (t, J=5.5 Hz, 1H), 5.10 (d, J=5.3 Hz, 1H), 5.16 (d, J=5.0 Hz, 1H), 5.20 (d, J=5.9 Hz, 1H), 5.40 (d, J=9.1 Hz, 1H), 6.62 (m, 2H), 7.04 (m, 1H), 7.11 (t, J=7.9 Hz, 1H), 7.38 (s, 1H), 7.54 (d, J=8.2 Hz, 1H).

reactant | 4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | ClC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24ClNO9
reactant | 5-ethylthiophen-2-carbonyl chloride | C(C)C1=CC=C(S1)C(=O)Cl | C7H7ClOS
product | 4-Chloro-3-(5-ethylthiophen-2-yl-methyl)-1-(β-D-gluco-pyranosyl)indole | ClC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC=1SC(=CC1)CC | C21H24ClNO5S
